US07935702B2
1. 6-(8-Chloropyrido[2,3-b]pyrazin-3-yl)-5-(trifluoromethyl)nicotinamide
Dissolve 6-(2,2-dihydroxyacetyl)-5-(trifluoromethyl)nicotinamide (8.0 g) in 100.0 mL of EtOH and then add 4-chloro-2,3-diaminopyridine (800 mg) followed by addition of NaHCO3 (3.6 g). Stir the reaction at room temperature for 18 hours under N2 atmosphere. Concentrate the reaction mixture under vacuum, and purify by column chromatography to afford the title product as a yellow solid.

reactant | 6-(2,2-dihydroxyacetyl)-5-(trifluoromethyl)nicotinamide | 8.0 g | OC(C(=O)C1=NC=C(C(=O)N)C=C1C(F)(F)F)O | C9H7F3N2O4
reactant | 4-chloro-2,3-diaminopyridine | 800 mg | ClC1=C(C(=NC=C1)N)N | C5H6ClN3
reactant | NaHCO3 | 3.6 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 100.0 mL | CCO | C2H6O
product | 6-(8-Chloropyrido[2,3-b]pyrazin-3-yl)-5-(trifluoromethyl)nicotinamide | ClC1=CC=NC2=NC(=CN=C21)C2=NC=C(C(=O)N)C=C2C(F)(F)F | C14H7ClF3N5O
